US04916152
A solution of (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-[(E)-2-ethoxycarbonylvinyl]pyrrolidine (1.10 g) in 90% aqueous trifluoroacetic acid (10 ml) was stirred at room temperature for 1 hour and the solvent was evaporated in vacuo. The residue was dissolved in ethyl acetate and the solution was washed successively with saturated aqueous sodium bicarbonate and brine. The organic solution was dried over magnesium sulfate and evaporated in vacuo to give (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-[(E)-2-ethoxycarbonylvinyl]pyrrolidine (596 mg) as an oil.

reactant | (2S,4R)-1-t-butoxycarbonyl-4-(4-chlorophenylsulfonylamino)-2-[(E)-2-ethoxycarbonylvinyl]pyrrolidine | 1.10 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C\C(=O)OCC | C20H27ClN2O6S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S,4R)-4-(4-chlorophenylsulfonylamino)-2-[(E)-2-ethoxycarbonylvinyl]pyrrolidine | 596 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C[C@H](NC1)\C=C\C(=O)OCC | C15H19ClN2O4S
